US08440830B2
To a solution of tert-butyl[2-(3-thienyl)ethyl]carbamate in toluene was added paraformaldehyde (2 equi.) and catalytic amount of PTSA and reaction mixture was then refluxed in dean stark apparatus for 4 hrs. Reaction mass wan then concentrated and extracted with dichloromethane dried over sodium sulphate and evaporated to yield tert-butyl 4,7-dihydrothieno[2,3-c]pyridine-6(5H)— carboxylate.

reactant | tert-butyl[2-(3-thienyl)ethyl]carbamate | C(C)(C)(C)OC(NCCC1=CSC=C1)=O | C11H17NO2S
reactant | paraformaldehyde | C=O | CH2O
reactant | PTSA | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4,7-dihydrothieno[2,3-c]pyridine-6(5H)— carboxylate | S1C=CC2=C1CN(CC2)C(=O)OC(C)(C)C | C12H17NO2S
